US07456175B2
1-[2-(4-Ethyl-piperazin-1-yl)-pyridin-4-yl]-3-propyl-urea
A mixture of 20.6 mg (0.1 mmol) 2-(4-ethyl-piperazin-1-yl)-pyridin-4-ylamine, 15 mg (0.15 mmol) triethylamine and 9.4 mg (0.11 mmol) 1-isocyanato-propane in 1 ml dichloromethane was stirred at room temperature for 16 h. After evaporation the residue was taken up in 1 ml methanol/acetonitrile 1/1 and subjected to preparative HPLC purification on reversed phase eluting with a gradient of acetonitrile/water (0.05% triethylamine). The combined product fractions were evaporated to dryness to yield 7.2 mg (25%) of the title compound. (m/e): 292.3 (MH+; 100%).

reactant | 2-(4-ethyl-piperazin-1-yl)-pyridin-4-ylamine | 0.1 mmol, 20.6 mg | C(C)N1CCN(CC1)C1=NC=CC(=C1)N | C11H18N4
reactant | triethylamine | 0.15 mmol, 15 mg | C(C)N(CC)CC | C6H15N
reactant | 1-isocyanato-propane | 0.11 mmol, 9.4 mg | N(=C=O)CCC | C4H7NO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 1-[2-(4-Ethyl-piperazin-1-yl)-pyridin-4-yl]-3-propyl-urea | 7.2 mg, 25% | C(C)N1CCN(CC1)C1=NC=CC(=C1)NC(=O)NCCC | C15H25N5O
